US08664210B2
(S)-1-tert-Butoxycarbonyl-3-pyrrolidinyloxyamine (1.67 g) was dissolved in a 5M HCl solution in EtOAc (20 ml). After 1 h the solvent was removed under reduced pressure to give (S)-3-pyrrolidinyloxyamine dihydrochloride (1.04 g, 73%) as an off-white solid.

reactant | (S)-1-tert-Butoxycarbonyl-3-pyrrolidinyloxyamine | 1.67 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)ON | C9H18N2O3
reactant | HCl | 5M | Cl | ClH
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | (S)-3-pyrrolidinyloxyamine dihydrochloride | 1.04 g, 73% | Cl.Cl.N1C[C@H](CC1)ON | InChI=1S/C4H10N2O.2ClH/c5-7-4-1-2-6-3-4;;/h4,6H,1-3,5H2;2*1H/t4-;;/m0../s1
